US07851473B2
(3) tert-Butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate
A solution of 2-bromo-4-(3-fluorophenyl)-1,3-thiazole (800 mg, 3.10 mmol), tert-butyl piperazine-1-carboxylate (1.15 g, 6.20 mmol) and potassium carbonate (428 mg, 3.10 mmol) in dimethylformamide (10 ml) was stirred at 120° C. for 12 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 781 mg (69.4%) of the desired product as an oil.

reactant | 2-bromo-4-(3-fluorophenyl)-1,3-thiazole | 3.10 mmol, 800 mg | BrC=1SC=C(N1)C1=CC(=CC=C1)F | C9H5BrFNS
reactant | tert-butyl piperazine-1-carboxylate | 6.20 mmol, 1.15 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 3.10 mmol, 428 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 781 mg, 69.4% | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22FN3O2S
